US08222266B2
4-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E7)
4-(2-Methyl-pyridin-4-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one was treated with 4N HCl in dioxane (1 eq), to give the title compound.

reactant | 4-(2-Methyl-pyridin-4-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one | CC1=NC=CC(=C1)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H27F3N4O
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
product | 4-(2-methyl-4-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | Cl.CC1=NC=CC(=C1)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C26H27F3N4O.ClH/c1-18-14-19(8-10-30-18)23-9-13-33(24(34)31-23)12-3-2-11-32-16-22-15-25(22,17-32)20-4-6-21(7-5-20)26(27,28)29;/h4-10,13-14,22H,2-3,11-12,15-17H2,1H3;1H/t22-,25+;/m0./s1
